US05123951
Mono-t-butyl methoxymalonate (5.42 grams, 0.03 mole), prepared in Part B, 3,5-dichloroaniline (4.62 grams, 0.03 mole) and 1,3-dicyclohexylcarbodiimide (5.88 grams, 0.03 mole) were reacted in a manner similar to that described in Example LVII to give 2.92 grams (0.009 mole) of t-butyl 3-[(3,5-dichlorophenyl)amino]-2-methoxy-3-oxopropanoate having a melting point of 129.5° C.-131.5° C.

reactant | Mono-t-butyl methoxymalonate | 0.03 mole, 5.42 grams | COC(C(=O)OC(C)(C)C)C(=O)[O-]
reactant | 3,5-dichloroaniline | 0.03 mole, 4.62 grams | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | 1,3-dicyclohexylcarbodiimide | 0.03 mole, 5.88 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | t-butyl 3-[(3,5-dichlorophenyl)amino]-2-methoxy-3-oxopropanoate | 0.009 mole, 2.92 grams | ClC=1C=C(C=C(C1)Cl)NC(C(C(=O)OC(C)(C)C)OC)=O | C14H17Cl2NO4
